US04920133
Methyl 3-(4-(2-quinolinylmethyloxy)benzyl)benzoate (0.002 mol) in tetrahydrofuran (50 ml) is added dropwise to a tetrahydrofuran (50 ml) suspension of lithium aluminium hydride (0.004 mol). After consumption of the ester, the remaining lithium aluminum hydride is quenched by the addition of water and filtration to remove the resulting salts. Evaporation of the solvent gives 3-(4-(2-quinolinylmethyloxy)benzyl)benzyl alcohol.

reactant | Methyl 3-(4-(2-quinolinylmethyloxy)benzyl)benzoate | 0.002 mol | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(CC=2C=C(C(=O)OC)C=CC2)C=C1 | C25H21NO3
reactant | lithium aluminium hydride | 0.004 mol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(4-(2-quinolinylmethyloxy)benzyl)benzyl alcohol | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(CC=2C=C(CO)C=CC2)C=C1 | C24H21NO2
